US04287362
To a solution of ethyl diethoxyacetate (24.5 g) in ethyl acetate (12.5 g), metallic sodium (4.2 g) was added, and the resultant mixture was refluxed for about 1.5 hours. The reaction mixture was made acidic with 50% acetic acid and extracted with ether. After removal of the ether from the extract by distillation, the residue was subjected to fractional distillation to give ethyl diethoxyacetoacetate (13.6 g) as a colorless, transparent oil boiling at 84° C./4 mmHg.

reactant | ethyl diethoxyacetate | 24.5 g | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | sodium | 4.2 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 12.5 g | C(C)(=O)OCC | C4H8O2
product | ethyl diethoxyacetoacetate | 13.6 g | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
